US06528510B1
2-Amino-7-isopropyl-4-methyl-benzothiazole-6-thiol
The title compound was prepared according to General Method 14 using 7-isopropyl-4-methyl-6-thiocyanato-benzothiazol-2-yl-amine (Example L-5; 11.5 g, 43.7 mmol), dithiothreitol (27.0 g, 175 mmol), EtOH (200 mL), and phosphate buffer (50 mL). MS (APCI): 239 (M+H).

reactant | 7-isopropyl-4-methyl-6-thiocyanato-benzothiazol-2-yl-amine | 43.7 mmol, 11.5 g | C(C)(C)C1=C(C=C(C=2N=C(SC21)N)C)SC#N | C12H13N3S2
reactant | dithiothreitol | 175 mmol, 27.0 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | phosphate | 50 mL | P(=O)([O-])([O-])[O-]
solvent | EtOH | 200 mL | CCO | C2H6O
product | 2-Amino-7-isopropyl-4-methyl-benzothiazole-6-thiol | NC=1SC2=C(N1)C(=CC(=C2C(C)C)S)C | C11H14N2S2
